US04518597
7,8-Dibromo-6-[4-(4-methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 7,8-dibromo-6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-(4-methylphenylmercapto)-butylchloride.

reactant | 7,8-dibromo-6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | BrC1=C(C2=C(C(OC(N2)=O)(C)C)C=C1O)Br | C10H9Br2NO3
reactant | 4-(4-methylphenylmercapto)-butylchloride | CC1=CC=C(C=C1)SCCCCCl | C11H15ClS
product | 7,8-Dibromo-6-[4-(4-methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | BrC1=C(C2=C(C(OC(N2)=O)(C)C)C=C1OCCCCSC1=CC=C(C=C1)C)Br | C21H23Br2NO3S
